US07456200B2
Pyrimidine-4-carboxylic acid
3-Methyl-pyrimidine (9.41 g, 100 mmol), potassium permanganate (26.9 g) and sodium carbonate (10.6 g) was refluxed in water (100 ml) for 72 h followed by filtration through celite. The filtrate was washed with several portions of DCM and EtOAc before acidification with conc. HCl. The formed precipitate was collected and washed with water to yield 1.37 g of the title compound as a white solid. 1H NMR (DMSO-d6) d (ppm): 13.94 (br. s, 1H), 9.37 (d, 1H), 9.07 (d, 1H), 8.01 (dd, 1H).

reactant | 3-Methyl-pyrimidine | 100 mmol, 9.41 g | CN1CN=CC=C1 | C5H8N2
reactant | potassium permanganate | 26.9 g | [Mn](=O)(=O)(=O)[O-].[K+]
reactant | sodium carbonate | 10.6 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | 100 ml | O | H2O
product | Pyrimidine-4-carboxylic acid | 1.37 g | N1=CN=C(C=C1)C(=O)O | C5H4N2O2
